Circuit-Bench ngspice and Sky130 smoke test
.lib /opt/sky130/continuous/sky130.lib.spice tt

VDD vdd 0 1.8
VIN in 0 0
M1 out in 0 0 sky130_fd_pr__nfet_01v8 L=0.15u W=1u
M2 out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15u W=2u

.op
.end
